US07320993B1
a) 8-hydroxy-8,8-bis-(4-fluorophenyl)-octyl bromide
7.65 g (313.8 mmol) magnesium shavings are placed under protective gas atmosphere and 55.1 g (314.8 mmol) 4-bromofluorobenzene dissolved in 250 ml abs. THF are added dropwise so that the reaction mixture boils gently. After complete addition, the mixture is heated for 30 minutes under reflux, and, afterwards, the suspension is cooled. While cooling in an ice bath, a solution of 25.0 g (105.4 mmol) 8-bromoctanoic acid methyl ester in 100 ml abs. THF is added dropwise. Subsequently, the mixture is heated for a further 30 minutes under reflux. After cooling, NH4Cl-solution is added to the reaction and this is extracted by diisopropyl ether by shaking. The organic phase is washed with saturated NaCl solution, dried over sodium sulfate and the solvent is removed under vacuum. The residue is chromatographically purified over silica gel with petroleum ether/acetic acid ethyl ester (20/1 to 10/1): Yield 36.4 g (87%).

reactant | magnesium | 313.8 mmol, 7.65 g | [Mg] | Mg
reactant | 4-bromofluorobenzene | 314.8 mmol, 55.1 g | BrC1=CC=C(C=C1)F | C6H4BrF
reactant | 8-bromoctanoic acid methyl ester | 105.4 mmol, 25.0 g | COC(CCCCCCCBr)=O | C9H17BrO2
reactant | NH4Cl | [NH4+].[Cl-]
solvent | THF | C1CCOC1 | C4H8O
product | 8-hydroxy-8,8-bis-(4-fluorophenyl)-octyl bromide | OC(CCCCCCCBr)(C1=CC=C(C=C1)F)C1=CC=C(C=C1)F | C20H23BrF2O
